US08008307B2
Step b: 6-{[(1R,3S,4S)-3-{[tert-butyl(dimethyl)silyl]oxy}-4-({[tert-butyl(dimethyl)silyl]oxy}-methyl)cyclopentyl]oxy}-5-fluoro-N-[(1R,2S)-2-methoxy-2,3-dihydro-1H-inden-1-yl]pyrimidin-4-amine
4-{[(1R,3S,4S)-3-{[tert-butyl(dimethyl)silyl]oxy}-4-({[tert-butyl(dimethyl)silyl]-oxy}methyl)cyclopentyl]oxy}-6-chloro-5-fluoropyrimidine (260 mg, 0.53 mmol), (1R,2S)-2-methoxyindan-1-amine (364 mg, 2.12 mmol), and sodium carbonate (224 mg, 2.12 mmol) was weighed into a microwave reaction tube. This mixture was heated in a sealed tube under microwave irradiation at 180° C. for 2 h. The reaction mixture was diluted with DCM (100 mL), and the suspension was filtered. The filtrate was washed with saturated NH4Cl solution (100 mL), and the organic layer was dried over MgSO4. This suspension was filtered, and evaporated under vacuum. The residue was purified via silica gel column chromatography eluting with a gradient of 0 to 10% methanol in DCM to afford the title compound (313 mg, 91%).

reactant | 4-{[(1R,3S,4S)-3-{[tert-butyl(dimethyl)silyl]oxy}-4-({[tert-butyl(dimethyl)silyl]-oxy}methyl)cyclopentyl]oxy}-6-chloro-5-fluoropyrimidine | 0.53 mmol, 260 mg | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](C[C@H]1CO[Si](C)(C)C(C)(C)C)OC1=NC=NC(=C1F)Cl | C22H40ClFN2O3Si2
reactant | (1R,2S)-2-methoxyindan-1-amine | 2.12 mmol, 364 mg | CO[C@@H]1[C@@H](C2=CC=CC=C2C1)N | C10H13NO
reactant | sodium carbonate | 2.12 mmol, 224 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | 6-{[(1R,3S,4S)-3-{[tert-butyl(dimethyl)silyl]oxy}-4-({[tert-butyl(dimethyl)silyl]oxy}-methyl)cyclopentyl]oxy}-5-fluoro-N-[(1R,2S)-2-methoxy-2,3-dihydro-1H-inden-1-yl]pyrimidin-4-amine | 313 mg, 91% | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](C[C@H]1CO[Si](C)(C)C(C)(C)C)OC1=C(C(=NC=N1)N[C@H]1[C@H](CC2=CC=CC=C12)OC)F | C32H52FN3O4Si2
